US06221638B1
The Arthrobacter species KNK168 strain was subjected to shaking culture in the same manner as in Example 6 using (RS)-1-methylpropylamine as an enzyme inducer. The cells harvested from one liter of the culture were suspended in one liter of a 0.1 M Tris-hydrochloric acid buffer (pH 8.5), and 30 g of 1-(3-trifluoromethylphenyl)-2-propanone, 18 g of (R)-1-phenylethylamine, and 44 g of oleic acid were added thereto. The components were reacted at 30° C. for 40 hours with stirring. After the reaction, the resulting mixture was subjected to extraction and distillation in the same manner as in Example 6, to give 19.5 g of (R)-1-(3-trifluoromethylphenyl)-2-aminopropane. The optical purity was 100% ee, and the yield was 65%.

reactant | (RS)-1-methylpropylamine | CC(CC)N | C4H11N
reactant | Tris hydrochloric acid | 0.1 M, pH 8.5 | C(C(CO)(CO)N)O.Cl
reactant | 1-(3-trifluoromethylphenyl)-2-propanone | 30 g | FC(C=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O
reactant | (R)-1-phenylethylamine | 18 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | oleic acid | 44 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | (R)-1-(3-trifluoromethylphenyl)-2-aminopropane | 19.5 g, yield was 65% | FC(C=1C=C(C=CC1)C[C@@H](C)N)(F)F | C10H12F3N
